US08003796B2
Step A. Preparation of 2-chloro-5-cyclopropylpyrimidine
A mixture of 5-bromo-2-chloropyrimidine (100 mg, 0.517 mmol, Aldrich), cyclopropylboronic acid (57.7 mg, 0.672 mmol, Aldrich), Tricyclohexylphosphine (14.50 mg, 0.052 mmol, Aldrich) and K3PO4 (384 mg, 1.81 mmol, EMD) in Toluene (2 mL) and Water (0.110 mL) was degassed by vacuum and purged with Ar. To the resulting mixture was added Palladium(II) acetate (5.80 mg, 0.026 mmol, Stem) and then heated under microwave conditions at 120° C. for 10 min. The reaction mixture was quenched with H2O and then extracted with EtOAc (2×). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo to a yellow oil. The oil was purified by flash chromatography (SiO2, 0 to 20% EtOAc in Hexanes) to yield 71 mg of the desired compound as a white solid. MS (ESI) 155 (M+H).

reactant | 5-bromo-2-chloropyrimidine | 0.517 mmol, 100 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | cyclopropylboronic acid | 0.672 mmol, 57.7 mg | C1(CC1)B(O)O | C3H7BO2
reactant | Tricyclohexylphosphine | 0.052 mmol, 14.50 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 1.81 mmol, 384 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | Toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 0.110 mL | O | H2O
catalyst | Palladium(II) acetate | 0.026 mmol, 5.80 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-5-cyclopropylpyrimidine | 71 mg | ClC1=NC=C(C=N1)C1CC1 | C7H7ClN2
